US04747875
Synthesis of 3-(4-diethylamino-2-cyclohexyloxyphenyl)-3-(1,2-dimethylindol-3-yl)-4-azaphthalide
Into 150 ml of acetic anhydride, 14.7 g of (1,2-dimethylindol-3-yl) (3-carboxypyridin-2-yl) ketone and 13.3 g of 1-cyclohexyloxy-3-diethylaminobenzene were added and the resultant mixture was stirred for 3 hours at 60° to 65° C. After cooling the reaction mixture to room temperature, the cooled mixture was treated by the same procedures as in Synthetic Example 7 and 19.7 g of the object compound was obtained as pale blue crystals (melting point: 161° to 165° C.).

reactant | (1,2-dimethylindol-3-yl) (3-carboxypyridin-2-yl) ketone | 14.7 g | C(=O)(O)C=1C(=NC=CC1)C(=O)C1=C(N(C2=CC=CC=C12)C)C | C17H14N2O3
reactant | 1-cyclohexyloxy-3-diethylaminobenzene | 13.3 g | C1(CCCCC1)OC1=CC(=CC=C1)N(CC)CC | C16H25NO
solvent | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(4-diethylamino-2-cyclohexyloxyphenyl)-3-(1,2-dimethylindol-3-yl)-4-azaphthalide | 19.7 g | C(C)N(C1=CC(=C(C=C1)C1(OC(=O)C2=CC=CN=C12)C1=C(N(C2=CC=CC=C12)C)C)OC1CCCCC1)CC | C33H37N3O3
